US06933295B2
tert-Butyl 3-[(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzylcarbamate
2.41 ml (15.4 mmol) of diethyl azodicarboxylate (DEAD) are added dropwise to a mixture, cooled with water, of 3.37 g (11 mmol) of 5-chloro-N-(1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl)-2-thiophenecarboxamide, 3.26 g (13.8 mmol) of tert-butyl 3-(hydroxymethyl)benzylcarbamate and 4.04 g (15.4 mmol) of triphenylphosphine in 60 ml of absolute THF. The reaction mixture is stirred vigorously at room temperature for 90 min and then concentrated to a volume of about 30 ml. 300 ml of ether are added to the solid and the mixture is filtered. Another crystallization of the mother liquor yields a second batch. The product is dried under high vacuum. Alternatively, the product can be purified by column chromatography on silica gel (dichloromethane/methanol mixture or cyclohexane/ethyl acetate mixture). Yield: 4.79 g (82.8% of theory);

reactant | diethyl azodicarboxylate | 15.4 mmol, 2.41 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 5-chloro-N-(1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl)-2-thiophenecarboxamide | 11 mmol, 3.37 g | ClC1=CC=C(S1)C(=O)NC1=C2C(NC(C2=CC=C1)=O)=O | C13H7ClN2O3S
reactant | tert-butyl 3-(hydroxymethyl)benzylcarbamate | 13.8 mmol, 3.26 g | OCC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C13H19NO3
reactant | triphenylphosphine | 15.4 mmol, 4.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-Butyl 3-[(4-{[(5-chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzylcarbamate | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC=1C=C(CNC(OC(C)(C)C)=O)C=CC1)=O | C26H24ClN3O5S
